 
* Author: FOSSEE
* Date:

r1  in out 1k
c1  out gnd 10u
v1 in gnd  ac 10 0
* u1  in plot_v1
* u2  out plot_v1
* u3  out plot_log
.ac dec 20 1Hz 100KHz

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
plot log(out)
.endc
.end
      			